### PR TITLE
[Merged by Bors] - feat(Algebra/GroupWithZero/Int): add lemmas about Zm0

### PR DESCRIPTION
**Pull request by mariainesdff**
Co-authored-by: Filippo A. E. Nuccio <filippo.nuccio@univ-st-etienne.fr>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/Int.lean [hunk 1]
```diff
@@ -0,0 +1,33 @@
...
+
+open Multiplicative
+
+theorem ofAdd_zpow (a : ℤ) : (↑(ofAdd a) : ℤₘ₀) = ofAdd (1 : ℤ) ^ a := by
+  rw [← WithZero.coe_zpow, WithZero.coe_inj, ← Int.ofAdd_mul, one_mul]
+
+theorem ofAdd_zpow_zpow_comm (a b c : ℤ) :
+    ((↑(ofAdd a) : ℤₘ₀) ^ b) ^ c = (ofAdd (a : ℤ) ^ c) ^ b := by
+  simp only [← WithZero.coe_zpow]
+  rw [← zpow_mul, mul_comm, zpow_mul]
```
Comment (jcommelin) [inline Mathlib/Algebra/GroupWithZero/Int.lean:25]: I haven't opened this in Lean, but this looks to me like a general lemma about `GroupWithZero`s. Do you see what I mean, or am I mistaken?

Comment (erdOne) [inline Mathlib/Algebra/GroupWithZero/Int.lean:25]:
```suggestion
  rw [← zpow_mul, ← zpow_mul']
```
This should work for any `DivisionMonoid`

Comment (mariainesdff) [reply Mathlib/Algebra/GroupWithZero/Int.lean]: You are both right; I have generalized this lemma and moved it to `Algebra.GroupWithZero.WithZero`. Thanks!

Comment (erdOne) [reply Mathlib/Algebra/GroupWithZero/Int.lean]: The lemma should be 
```
lemma foo {α : Type*} [DivisionMonoid α] (a : α) (m n : ℤ) : 
    (a ^ m) ^ n = (a ^ n) ^ m := by
  rw [← zpow_mul, ← zpow_mul']
```
and it doesn't even need to mention `WithZero` I believe.

Comment (mariainesdff) [reply Mathlib/Algebra/GroupWithZero/Int.lean]: I moved it to `Algebra.Group.Basic`.

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 2]
```diff
@@ -313,4 +313,9 @@ instance addMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero α)
   natCast_zero := rfl
   natCast_succ n := by cases n <;> simp
 
+theorem ofAdd_zpow_zpow_comm [DivisionMonoid α] (a : α) (b c : ℤ) :
+    ((↑a : WithZero α) ^ b) ^ c = ((a : α) ^ c) ^ b := by
+  simp only [← WithZero.coe_zpow]
+  rw [← zpow_mul, zpow_mul']
```
Comment (jcommelin) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]:
```suggestion
theorem zpow_comm [DivisionMonoid α] (a : α) (b c : ℤ) :
    (a ^ b) ^ c = (a ^ c) ^ b := by
  rw [← zpow_mul, zpow_mul']
```

File: Mathlib/Algebra/Group/Basic.lean [hunk 3]
```diff
@@ -491,6 +491,11 @@ theorem eq_of_one_div_eq_one_div (h : 1 / a = 1 / b) : a = b := by
 @[to_additive mul_zsmul]
 lemma zpow_mul' (a : α) (m n : ℤ) : a ^ (m * n) = (a ^ n) ^ m := by rw [Int.mul_comm, zpow_mul]
 
+@[to_additive]
+theorem zpow_zpow_comm (a : α) (m n : ℤ) :
```
Comment (jcommelin) [inline Mathlib/Algebra/Group/Basic.lean:495]:
```suggestion
theorem zpow_comm (a : α) (m n : ℤ) :
```

**Review by jcommelin — COMMENTED** [review]
bors d+
